US08975254B2
(S)—N-(1-(3-(4-cyano-3-(trifluoromethyl)phenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-methylisoxazole-3-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)-benzonitrile (120 mg, 0.408 mmol) and 5-methylisoxazole-3-carboxylic acid (62 mg, 0.489 mmol). The product was purified with flash-chromatography. Yield 88 mg (53%). 1H-NMR (400 MHz; d6-DMSO): δ 1.16 (d, 3H), 2.43 (s, 3H), 4.32-4.34 (m, 2H), 4.40-4.50 (m, 1H), 6.43 (s, 1H), 7.02 (d, 1H), 7.84 (d, 1H), 8.18 (d, 1H), 8.23-8.25 (m, 1H), 8.29 (s, 1H), 8.71 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-(trifluoromethyl)-benzonitrile | 0.408 mmol, 120 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C(F)(F)F)C | C14H13F3N4
reactant | 5-methylisoxazole-3-carboxylic acid | 0.489 mmol, 62 mg | CC1=CC(=NO1)C(=O)O | C5H5NO3
product | (S)—N-(1-(3-(4-cyano-3-(trifluoromethyl)phenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-methylisoxazole-3-carboxamide | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)C)C(F)(F)F | C19H16F3N5O2
